US08357693B2
A mixture of 6,7-dimethoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one (5.72 g, 17.5 mmol) and L-methionine (3.1 g, 20.7 mmol) in methanesulfonic acid (40 mL) was heated at 100° C. for 4.5 h. An additional aliquot of L-methionine (0.45 g, 1.36 mmol) and methanesulfonic acid (10 mL) were added and the mixture was heated for a further 2 h. The mixture was allowed to cool to RT, poured into ice water (ca. 500 mL) and was neutralized with sat. NaHCO3 solution. A solid separated out which was collected by filtration and dried under vacuum to give the desired 6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one. (7.3 g). HPLC retention time 5.486 min.

reactant | 6,7-dimethoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | 17.5 mmol, 5.72 g | COC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C16H13N3O5
reactant | L-methionine | 20.7 mmol, 3.1 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | L-methionine | 1.36 mmol, 0.45 g | N[C@@H](CCSC)C(=O)O | C5H11NO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | methanesulfonic acid | 40 mL | CS(=O)(=O)O | CH4O3S
solvent | methanesulfonic acid | 10 mL | CS(=O)(=O)O | CH4O3S
product | 6-hydroxy-7-methoxy-2-(3-nitrophenyl)quinazolin-4(3H)-one | OC=1C=C2C(NC(=NC2=CC1OC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C15H11N3O5
